US07674822B2
Step B Urea Formation: Addition of ethyl isocyanate (0.5 mL, 6.5 mmol) to 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (60 mg, 0.13 mmol) was carried out following a procedure similar to that delineated in Step B, Example 27, with the following exceptions: co-solvent (DCE), addition of catalytic DMAP, temperature (70° C. vs. ambient), and total reaction time (100+ hours), affording 30 mg of 7-(1-Cyclohexylmethyl-3-ethyl-ureido)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (43% yield).

reactant | Urea | NC(=O)N | CH4N2O
reactant | ethyl isocyanate | 6.5 mmol, 0.5 mL | C(C)N=C=O | C3H5NO
reactant | 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.13 mmol, 60 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)NCC2CCCCC2)S1)OCC(=O)OCC | C23H27NO5S2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | ClCCCl | C2H4Cl2
product | 7-(1-Cyclohexylmethyl-3-ethyl-ureido)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 30 mg, 43% yield | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)N(C(=O)NCC)CC2CCCCC2)S1)OCC(=O)OCC | C26H32N2O6S2
